US07737166B2
1-{4-Cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-N,N-dimethylazetidine-3-carboxamide (I-146)
2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (0.21 g, 0.73 mmol), (diisopropylethylamine (0.28 ml, 1.65 mmol) and azetidine-3-carbonyldimethylamide hydrochloride (I-145) (0.25 g) were dissolved in dichloromethane (10 ml). After heated under reflux for 3 hours, this was diluted with dichloromethane, washed with water, then dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane to dichloromethane:methanol=100:1) to obtain a colorless oil (0.24 g, 86%)

reactant | 2-Chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.73 mmol, 0.21 g | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | diisopropylethylamine | 1.65 mmol, 0.28 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | azetidine-3-carbonyldimethylamide hydrochloride | 0.25 g | Cl.N1CC(C1)C(=O)C[N-]C
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-{4-Cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-N,N-dimethylazetidine-3-carboxamide | 0.24 g, 86% | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)C(=O)N(C)C)F)C2=CC=CC=C2)C | C21H19FN4O2
